US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (41.0 mg, 0.0998 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with 4-methylpiperidine (0.048 mL, 0.41 mmol), acetic acid (0.345 mL, 6.03 mmol) and sodium triacetoxyborohydride (169 mg, 0.797 mmol). The reaction mixture was added with water and sodium hydrogen carbonate to adjust the pH of to 9. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to obtain 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(4-methylpiperidinomethyl)indol-2-yl]isoindolinone (25.0 mg, yield 51%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0998 mmol, 41.0 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | 4-methylpiperidine | 0.41 mmol, 0.048 mL | CC1CCNCC1 | C6H13N
reactant | acetic acid | 6.03 mmol, 0.345 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.797 mmol, 169 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-(4-methylpiperidinomethyl)indol-2-yl]isoindolinone | 25.0 mg, yield 51% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCC(CC1)C)C(=O)OC(C)(C)C)=O | C28H32ClN3O3
